US05948917
A suspension of 1.65 g of magnesium ethylate in 30 ml of toluene was kept at 60-70° C. and 2.28 g of acetoacetic tert-butyl ester was added dropwise thereto. After the dropwise addition was completed, the resultant mixture was refluxed for two hours. Then, the reaction solution was cooled to room temperature and 3.85 g of 2,6-dichloro-3-methoxycarbonyl benzoic acid chloride was added dropwise thereto. The reaction mixture was stirred at room temperature for two hours and at 50-100° C. for three hours, then cooled to room temperature, treated with dilute hydrochloric acid, and extracted from ethyl acetate. Then, the organic layer was alkali extracted from an aqueous 5% sodium carbonate solution. The water layer was mixed with chloroform, educed with dilute hydrochloric acid, and extracted again. The organic layer was washed with saturated saline solution and dried over magnesium sulfate. The solution was distilled under a reduced pressure to expel the solvent and obtain 2.80 g of 2-(2,6-dichloro-3-methoxycarbonyl benzoyl) acetoacetic tert-butyl ester. A solution of this ester in 45 ml of toluene and 0.2 g of p-toluene sulfonic acid hydrate added thereto were refluxed together for six hours. The reaction solution was cooled, mixed with 200 ml of ethyl acetate, washed twice with 200 ml of water, further washed with saturated saline solution, and dried over magnesium sulfate. The solution was distilled under a reduced pressure to expel the solvent and obtain 2.10 g of 2,6-dichloro-3-methoxycarbonyl benzoyl acetone. nD22 1.5759.

reactant | magnesium ethylate | 1.65 g | CC[O-].CC[O-].[Mg+2]
reactant | acetoacetic tert-butyl ester | 2.28 g | C(C)(C)(C)OC(CC(=O)C)=O | C8H14O3
reactant | 2,6-dichloro-3-methoxycarbonyl benzoic acid chloride | 3.85 g | ClC1=C(C(=O)Cl)C(=CC=C1C(=O)OC)Cl | C9H5Cl3O3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,6-dichloro-3-methoxycarbonyl benzoyl) acetoacetic tert-butyl ester | 2.80 g | C(C)(C)(C)OC(C(C(=O)C)C(C1=C(C(=CC=C1Cl)C(=O)OC)Cl)=O)=O | C17H18Cl2O6
